US06413938B1
B. 4-Chloro-2,3-difluoro-6-nitroaniline
2,3-Difluoro-6-nitroaniline (15.4 g, 88.7 mmol), N-chlorosuccinimide (14.9 g, 111.4 mmol) and N,N-dimethylformamide (250 mL) were combined and were heated to 80-90° C. for several hours, after which time the mixture was poured into ice water. The product was extracted with ethyl acetate which was then washed with water, saturated aqueous sodium chloride, dried over magnesium sulfate, filtered and the solvents were removed in vacuo to leave a yellow, viscous oil. 1H NMR (DMSO-d6) δ: 8.03 (dd, J=7.3, 2.2 Hz, 1H, Ar—H), 7.65 (br s, 2H, NH2).

reactant | 2,3-Difluoro-6-nitroaniline | 88.7 mmol, 15.4 g | FC1=C(N)C(=CC=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | N-chlorosuccinimide | 111.4 mmol, 14.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-2,3-difluoro-6-nitroaniline | ClC1=C(C(=C(N)C(=C1)[N+](=O)[O-])F)F | C6H3ClF2N2O2
